US06156776
To a solution of 2-(3'-nitrophenyl)-5-(p-tolyl)-1,3,4-thiadiazole (0.66 g, 2.22 mmol) in CCl4 (75 ml) is added NBS (0.43 g, 2.44 mmol) and refluxed for 12 hours. The mixture is then concentrated and the residue is taken up in chloroform (50 ml) and washed with saturated NaHCO3 (50 ml) and brine (50 ml). The organic layer is dried over MgSO4 and concentrated to yield 2-(3'-nitrophenyl)-5-(p-bromomethylphenyl)-1,3,4-thiadiazole as a tan solid. (0.69 g, 83%).

reactant | 2-(3'-nitrophenyl)-5-(p-tolyl)-1,3,4-thiadiazole | 2.22 mmol, 0.66 g | [N+](=O)([O-])C=1C=C(C=CC1)C=1SC(=NN1)C1=CC=C(C=C1)C | C15H11N3O2S
reactant | NBS | 2.44 mmol, 0.43 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 75 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(3'-nitrophenyl)-5-(p-bromomethylphenyl)-1,3,4-thiadiazole | [N+](=O)([O-])C=1C=C(C=CC1)C=1SC(=NN1)C1=CC=C(C=C1)CBr | C15H10BrN3O2S
